US08895545B2
b) 3-(4-Methyl-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)-acrylic acid tert-butyl ester
7-bromo-4-methyl-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepine hydrobromide (2.0 g, 6.2 mmol) was subjected to Heck coupling with tert-butyl acrylate to give crude product. Purification by silica gel chromatography (CH2Cl2:MeOH:NH4OH/95:4.95:0.05) gave the title compound as a brown oil (970 mg, 55%), 1H NMR (300 MHz, CDCl3) 8.11 (d, J=2.1 Hz, 1H), 7.52 (d, J=2.2 Mz, 1H), 7.47 (d, J=16.0 Hz, 1H) 6.22 (d, J=16.0 Hz, 1H), 3.64 (s, 2H), 3.27-3.31 (m, 2H), 2.83-2.88 (m, 2H), 2.44 (s, 3H), 1.52 (s, 9H); MS (ESI) m/e 290 (C16H23N3O2+H)+.

reactant | 7-bromo-4-methyl-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepine hydrobromide | 6.2 mmol, 2.0 g | Br.BrC1=CC2=C(NCCN(C2)C)N=C1
reactant | tert-butyl acrylate | C(C=C)(=O)OC(C)(C)C | C7H12O2
product | 3-(4-Methyl-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)-acrylic acid tert-butyl ester | 970 mg, 55% | C(C)(C)(C)OC(C=CC1=CC2=C(NCCN(C2)C)N=C1)=O | C16H23N3O2
